US06906203B1
To a mixture of 5-bromoveratraldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) in ethanol was added piperidine (0.1 ml, 1 mmol). The mixture was stirred at room temperature for 15 min to give the product 3,4-dimethoxy-5-bromobenzylidenemalononitrile as a yellow precipitate.

reactant | 5-bromoveratraldehyde | 1 mmol, 245 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 1 mmol, 0.1 ml | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 3,4-dimethoxy-5-bromobenzylidenemalononitrile | COC=1C=C(C=C(C#N)C#N)C=C(C1OC)Br | C12H9BrN2O2
